US06903126B2
6-[[1-Phenyl-2-(phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid
175 mg of 6-[[1-phenyl-2-(phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was reacted with lithium hydroxide according to general operating instructions 3. 143 mg was obtained.

reactant | 6-[[1-phenyl-2-(phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 175 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S(=O)(=O)CC2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C27H28N2O5S
reactant | lithium hydroxide | [OH-].[Li+]
product | 6-[[1-Phenyl-2-(phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)O)S(=O)(=O)CC2=CC=CC=C2 | C26H26N2O5S
